* Z:\home\sdanthinne\Documents\307\computer\gateTransistorModels\sram_test.asc
XX1 N001 wl rl bitlinewrite read_out s_sram_cell
V1 N001 0 5
R1 NC_01 NC_02 100k
V2 bitlinewrite 0 PULSE(0 5 0 10n 10n 8u 16u)
V3 wl 0 PULSE(0 5 0 10n 10n 4u 8u)
V4 rl 0 PULSE(0 5 0 10n 10n 2u 4u)

* block symbol definitions
.subckt s_sram_cell Vdd WL RL BLw BLr
M1 mem1 WL BLw 0 CMOSN_0.5 W=25u
M2 BLr RL mem2 0 CMOSN_0.5
M3 mem1 mem2 0 0 CMOSN_0.5 W=5u L=10u
M4 mem1 mem2 Vdd Vdd CMOSP_0.5
M5 mem2 mem1 0 0 CMOSN_0.5 W=20u
M6 mem2 mem1 Vdd Vdd CMOSP_0.5 W=20u
.ic V(mem1)=2.5V V(mem2)=2.5V
.ends s_sram_cell

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\sdanthinne\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 32u
.lib Z:\home\sdanthinne\Documents\307\computer\gateTransistorModels\DetailedModel.mod
.backanno
.end
